US09359375B2
A solution of (R)-tert-butyl 1-amino-1-oxo-3-(pyridin-2-yl)propan-2-ylcarbamate (280 mg, 0.739 mmol) in aq. 6N HCl (8 mL) was stirred at room temperature for 2 h. It was then concentrated in vacuo to give (R)-2-amino-3-(pyridin-2-yl)propanamide hydrochloride (170 mg).

reactant | (R)-tert-butyl 1-amino-1-oxo-3-(pyridin-2-yl)propan-2-ylcarbamate | 0.739 mmol, 280 mg | NC([C@@H](CC1=NC=CC=C1)NC(OC(C)(C)C)=O)=O | C13H19N3O3
reactant | HCl | 6N, 8 mL | Cl | ClH
product | (R)-2-amino-3-(pyridin-2-yl)propanamide hydrochloride | 170 mg | Cl.N[C@@H](C(=O)N)CC1=NC=CC=C1 | InChI=1S/C8H11N3O.ClH/c9-7(8(10)12)5-6-3-1-2-4-11-6;/h1-4,7H,5,9H2,(H2,10,12);1H/t7-;/m1./s1
